US07687495B2
i) (S)-6-oxo-4-(toluene-4-sulfonyloxy)-3,6-dihydro-2H-pyridine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester
Similar to example 24c, 9.43 g of (2S)-4,6-dioxo-piperidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester [176436-10-5] are reacted with p-toluene sulfonyl chloride to afford the title compound as a yellow oil Rf=0.64 (EtOAc-heptane 1:1); Rt=5.20.

reactant | (2S)-4,6-dioxo-piperidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 9.43 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C18H21NO6
reactant | p-toluene sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | EtOAc heptane | CCOC(=O)C.CCCCCCC
product | (S)-6-oxo-4-(toluene-4-sulfonyloxy)-3,6-dihydro-2H-pyridine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC(=CC1=O)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC1=CC=CC=C1 | C25H27NO8S
